US05519015
4-Amino-2-thiophenecarboxylic acid
4-Nitro-2-thiophenecarboxylic acid (1 g, 5.7 mmol) was added with stirring to a solution of SnCl2. 2H2O (3.25 g, 14.4 mmol) in concentrated HCl (10 ml). The mixture was stirred for 6 hours at ambient temperature and purified by subjecting to chromatography on HP20SS resin, using water as eluant, to give the title compound (0.59 g, 71%).

reactant | 4-Nitro-2-thiophenecarboxylic acid | 5.7 mmol, 1 g | [N+](=O)([O-])C=1C=C(SC1)C(=O)O | C5H3NO4S
reactant | SnCl2 | Cl[Sn]Cl
solvent | HCl | 10 ml | Cl | ClH
product | 4-Amino-2-thiophenecarboxylic acid | 0.59 g, 71% | NC=1C=C(SC1)C(=O)O | C5H5NO2S
